US06313071B1
To a solution of 23.8 g of 3-bromo-α-methylbenzylamine in toluene (120 ml), 14.1 g of pyridine was added at room temperature. To this solution, 18.6 g of methyl chloroformate was dropwise added under cooling with ice, followed by stirring at room temperature for 2 hours. The reaction solution was poured into a citric acid aqueous solution and extracted with ethyl acetate. The organic layer was washed with a citric acid aqueous solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain 10.5 g of methyl N-[1-(3-bromophenyl)ethyl]carbamate as a colorless transparent viscous liquid.

reactant | 3-bromo-α-methylbenzylamine | 23.8 g | BrC=1C=C(C(C)N)C=CC1 | C8H10BrN
reactant | pyridine | 14.1 g | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 18.6 g | ClC(=O)OC | C2H3ClO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | methyl N-[1-(3-bromophenyl)ethyl]carbamate | 10.5 g | BrC=1C=C(C=CC1)C(C)NC(OC)=O | C10H12BrNO2
